US07772271B2
To 1-cyclopropylmethyl-6-ethoxy-2-(4-nitro-phenyl)-1H-indole (600 mg, 1.79 mmol) in CH2Cl2 (4 mL) was added 1-fluoro-2,4,6-trimethyl pyridinium tetrafluoroborate (418 mg, 1.85 mmol). The reaction mixture was stirred at room temperature for 3 days and then diluted in CH2Cl2 and washed with aq. NaHCO3. The organic layer was dried, concentrated and purified by silica gel chromatography (1:1 CH2Cl2/hexane) to provide 1-cyclopropylmethyl-6-ethoxy-3-fluoro-2-(4-nitro-phenyl)-1H-indole (161 mg, 25%) as a yellow solid.

reactant | 1-cyclopropylmethyl-6-ethoxy-2-(4-nitro-phenyl)-1H-indole | 1.79 mmol, 600 mg | C1(CC1)CN1C(=CC2=CC=C(C=C12)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C20H20N2O3
reactant | 1-fluoro-2,4,6-trimethyl pyridinium tetrafluoroborate | 1.85 mmol, 418 mg | F[B-](F)(F)F.F[N+]1=C(C=C(C=C1C)C)C
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclopropylmethyl-6-ethoxy-3-fluoro-2-(4-nitro-phenyl)-1H-indole | 161 mg, 25% | C1(CC1)CN1C(=C(C2=CC=C(C=C12)OCC)F)C1=CC=C(C=C1)[N+](=O)[O-] | C20H19FN2O3
